US08530470B2
A solution of tert-butyl 2-(6-(dimethylcarbamoyl)-2-morpholino-4-oxo-4H-chromen-8-yl)-1H-pyrrole-1-carboxylate (0.6 g, 1.28 mmol) in MeOH (10 mL) was hydrogenated over 5% Rh/Al2O3 (NanoThales CatCart cartridge, product ID THS 02118) with the H-Cube (Continuous flow hydrogenation apparatus HC-2.5S from THALES Nanotechnology Inc. Budapest H-1031; Zahony u.7.; Hungaria) at 10 bars, 50° C. and a flow rate of 1 mL/min. for 3.5 h with continuous recycling. The cartridge was replaced by a 10% Pd/c cartridge and hydrogenation was pursued for 6 h at 60 bars and 60° C. The mixture was evaporated to dryness to give a solid which was triturated in diethyl ether, filtered and dried under vacuum at 50° C. to afford pure tert-butyl 2-(6-(dimethylcarbamoyl)-2-morpholino-4-oxo-4H-chromen-8-yl)pyrrolidine-1-carboxylate (0.30 g, 50%) as a white solid. The crude product was used as such for the next step. Mass Spectrum: m/z [M+H]+=472.

reactant | tert-butyl 2-(6-(dimethylcarbamoyl)-2-morpholino-4-oxo-4H-chromen-8-yl)-1H-pyrrole-1-carboxylate | 1.28 mmol, 0.6 g | CN(C(=O)C=1C=C2C(C=C(OC2=C(C1)C=1N(C=CC1)C(=O)OC(C)(C)C)N1CCOCC1)=O)C | C25H29N3O6
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Rh/Al2O3 | [Rh] | Rh
catalyst | Pd | [Pd] | Pd
product | tert-butyl 2-(6-(dimethylcarbamoyl)-2-morpholino-4-oxo-4H-chromen-8-yl)pyrrolidine-1-carboxylate | 0.30 g, 50% | CN(C(=O)C=1C=C2C(C=C(OC2=C(C1)C1N(CCC1)C(=O)OC(C)(C)C)N1CCOCC1)=O)C | C25H33N3O6
